US07964757B2
Catechol (22.0 g, 0.2 moles) and divanadium pentoxide (vanadium (V) oxide) (36.4 g, 0.2 moles) were added into water (110 mL), and 98% sulfuric acid (440 g, 4.4 moles) was added dropwise to the solution while temperature of the solution was maintained at 30° C. or lower, to adjust the concentration in percent by weight of sulfuric acid in the reaction system at 80%. The solution was reacted at 30° C. for 6 hours with stirring. After completion of the reaction, water (500 mL) was added dropwise to the reaction solution while temperature of the solution was maintained at 30° C. or lower, and the reaction solution was stirred at the same temperature for another 30 minutes. The resultant precipitate was collected by filtration, and the obtained crude crystal was washed with water. The crude crystal was further dispersed in water (1 L), and the dispersion liquid was stirred for 30 minutes, and then filtered to collect crystal. After the collected crystal was dispersed in acetone (400 mL), the dispersion liquid was stirred for 30 minutes. After that, the dispersion liquid was filtered to filter off insoluble matter, and the filtrate was concentrated under reduced pressure to distill off an excess amount of acetone. Subsequently, water (160 mL) was poured into the concentrated filtrate (solution of about 160 mL). This solution was slowly heated up from 56° C. under normal pressure to concentrate the solution. Crystal precipitated when temperature of the concentrated solution became 70 to 80° C. Concentration was further continued, and stopped when temperature of the concentrated solution became 90° C. The crystal thus precipitated was collected by filtration, and then dried, to give 2,3,6,7,10,11-hexahydroxytriphenylene (7.27 g, theoretical yield from catechol: 33.6%) in black powder form. Also, the obtained compound in black powder form was identified to be 2,3,6,7,10,11-hexahydroxytriphenylene by measuring 1H-NMR in the same way as in Example 1.

reactant | Catechol | 0.2 moles, 22.0 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | sulfuric acid | 4.4 moles, 440 g | S(O)(O)(=O)=O | H2O4S
catalyst | divanadium pentoxide | 0.2 moles, 36.4 g | [O-2].[O-2].[O-2].[O-2].[O-2].[V+5].[V+5]
solvent | water | 500 mL | O | H2O
solvent | water | 110 mL | O | H2O
product | 2,3,6,7,10,11-hexahydroxytriphenylene | 7.27 g, 33.6% | OC1=CC=2C3=CC(=C(C=C3C3=CC(=C(C=C3C2C=C1O)O)O)O)O | C18H12O6
